US04452851
To a suspension of 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylic acid (syn isomer) (10 g) in water (80 ml) was added dropwise conc. hydrochloric acid (10 ml) at room temperature under stirring and the mixture was stirred at the same temperature for one hour. The precipitates were filtered and washed with cold water and dried to give 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylic acid hydrochloride (syn isomer) (9.5 g).

reactant | 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylic acid | 10 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)O)C1=O)=NOCC(=O)O | C15H15N5O6S3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 80 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylic acid hydrochloride | 9.5 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)O)C1=O)=NOCC(=O)O | InChI=1S/C15H15N5O6S3.ClH/c1-5-3-28-13-9(12(24)20(13)10(5)14(25)27)18-11(23)8(19-26-2-7(21)22)6-4-29-15(16)17-6;/h4,9,13H,2-3H2,1H3,(H2,16,17)(H,18,23)(H,21,22)(H,25,27);1H/t9?,13-;/m1./s1
